US04980470
Synthesis of 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
To a solution of sodium methoxide prepare from sodium (50 mg) and absolute methanol (3 ml) was added 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (80 mg) and the mixture in sealed tube was stirred for 86 hours at 140° to 150° C. and then concentrated. Small amount of water was added to the residue, and the solution was adjusted pH 7 with acetic acid and concentrated. The resulting residue was purified by silica gel column chromatography eluting with chloroform-methanol-concentrated aqueous ammonia (20:6:1) and recrystallized from a solution of dichloromethanemethanol (1:1) to give the title compound (9 mg) as pale yellow prisms, mp 191.5°-193.5° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 50 mg | [Na] | Na
reactant | 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 80 mg | NC1CN(CC1C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C18H19F2N3O3
solvent | methanol | 3 ml | CO | CH4O
product | 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 9 mg | NC1CN(CC1C)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C19H22FN3O4
